US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (100 mg, 0.27 mmol), 2-ethyl-2-hydroxybutanoic acid (36 mg, 0.27 mmol), and NMM (30 μL, 0.27 mmol) in DMF (5 mL) at ambient temperature under nitrogen atmosphere was added BOP reagent (144 mg, 0.326 mmol). The mixture was stirred at ambient temperature for 72 h. The solvent was removed under reduced pressure. The residue was partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (100 mL). The EtOAc layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by preparative reverse phase HPLC using a gradient of 95:5 to 0:100 (water:CH3CN, 0.1% TFA) over 30 min with a flow rate of 18 mL/min. After concentration of desired fractions in vacuo, 1-(2-ethyl-2-hydroxybutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide was obtained an amorphous solid (55 mg; HPLC RT=3.32 min, method A; LC-MS m/z=482.2; 1H NMR, 400 MHz, CDCl3, 7.25 ppm (m, 3H), 7.2 ppm (m, 1H), 7.1 ppm (br s, 1H), 5.45 ppm (br s, 1H), 4.55 ppm (m, 2H), 4.3 ppm (m, 3H), 3.7 ppm (m, 2H), 2.2 ppm (m, 2H), 2.0 ppm (m, 2H), 1.8 ppm (m, 2H), 1.7 ppm (m, 2H), 1.4 ppm (s, 9H), 0.8 ppm (m, 6H)).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.27 mmol, 100 mg | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | 2-ethyl-2-hydroxybutanoic acid | 0.27 mmol, 36 mg | C(C)C(C(=O)O)(CC)O | C6H12O3
reactant | NMM | 0.27 mmol, 30 μL | CN1CCOCC1 | C5H11NO
reactant | BOP reagent | 0.326 mmol, 144 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(2-ethyl-2-hydroxybutanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | C(C)C(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(CC)O | C24H36ClN3O5
